US07745641B2
In a similar manner to Step 1 of Example 299, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (300 mg, 0.765 mmol) was dissolved in dichloromethane (12 mL), and the solution was treated with triethylamine (0.533 mL, 3.83 mmol) and trifluoromethanesulfonyl chloride (0.138 mL, 1.30 mmol) under ice-cooling, followed by purification by flash column chromatography (chloroform/methanol=100/0 to 98/2) to obtain 4-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (249 mg, yield 62%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.765 mmol, 300 mg | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H20N2O5
reactant | triethylamine | 3.83 mmol, 0.533 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonyl chloride | 1.30 mmol, 0.138 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 4-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 249 mg, yield 62% | FC(S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O)(F)F | C23H19F3N2O7S
